US06780855B2
4.44 g of methylamine is condensed in a solution of 3.86 g of 4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-nonyltosylate in 10 ml of absolute tetrahydrofuran at −20° C., and it is stirred in a pressure vessel at room temperature. After the pressure vessel was opened at −20° C., it is allowed to come to room temperature to allow excess methylamine to evaporate off. The reaction solution is taken up in dichloromethane, washed with water, dried on magnesium sulfate and concentrated by evaporation in a vacuum. 2.38 g of methyl-(4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-nonyl)-amine is obtained as a crude product.

reactant | methylamine | 4.44 g | CN | CH5N
reactant | 4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-nonyltosylate | 3.86 g | FC(CCCC1=C(S(=O)(=O)[O-])C=CC(=C1)C)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl-(4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-nonyl)-amine | 2.38 g | CNCCCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H10F13N
